US04851526
N-[1-Ethyl-2-(4-nitrophenoxy)butyl]-N-methyl-3,4,5-trimethoxybenzeneethanamine
In a manner similar to Preparation 2, react 4-[[2-(3,4,5-trimethoxyphenyl)ethyl](methyl)amino]hexan-3-ol with 1-fluoro-4-nitrobenzene to obtain the title compound.

reactant | 4-[[2-(3,4,5-trimethoxyphenyl)ethyl](methyl)amino]hexan-3-ol | COC=1C=C(C=C(C1OC)OC)CCN(C(C(CC)O)CC)C | C18H31NO4
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | N-[1-Ethyl-2-(4-nitrophenoxy)butyl]-N-methyl-3,4,5-trimethoxybenzeneethanamine | C(C)C(C(CC)OC1=CC=C(C=C1)[N+](=O)[O-])N(CCC1=CC(=C(C(=C1)OC)OC)OC)C | C24H34N2O6
